US04772600
2-(4-Chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:2]
Approximately 5.7 g of crude 2-(4-chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide was dissolved in hot isopropyl alcohol and acidified with ethereal hydrogen chloride. The solvents were removed under pressure. The residue was redissolved in hot isopropyl alcohol and cooled to room temperature while a solid formed. The solid was collected by filtration, rinsed with an isopropyl alcohol-isopropyl ether solution and finally rinsed with isopropyl ether. Drying under high vacuum gave a white solid weighing 5.0 g, mp 173°-177° C.

reactant | 2-(4-chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 5.7 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCN(CC)CC | C21H26ClN5O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-Chlorophenyl)-N-[3-(diethylamino)propyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCCN(CC)CC | InChI=1S/C21H26ClN5O.ClH/c1-3-26(4-2)14-6-13-23-19(28)15-27-20(16-8-10-17(22)11-9-16)25-18-7-5-12-24-21(18)27;/h5,7-12H,3-4,6,13-15H2,1-2H3,(H,23,28);1H
